US06403561B1
Preparation of Methyl 5-chloroindoline-2(R/S)-carboxylate
Methyl 5-chloroindole-2-carboxylate (0.6 g, 2.87 mmol) and magnesium shavings (0.34 g, 14.3 mmol) were suspended in methanol (40 ml) and the mixture was stirred for 8 h. The mixture was filtered, treated with methylene chloride (100 ml) and washed with NH4Cl solution. The organic fraction was dried (Na2SO4) and the solvent removed in order to give a solid which was purified by chromatography on a column of silica gel, using a 7/3 petroleum/ethyl acetate mixture as eluent. The product was isolated in the form of a yellow solid.

reactant | Methyl 5-chloroindole-2-carboxylate | 2.87 mmol, 0.6 g | ClC=1C=C2C=C(NC2=CC1)C(=O)OC | C10H8ClNO2
reactant | magnesium | 14.3 mmol, 0.34 g | [Mg] | Mg
solvent | methanol | 40 ml | CO | CH4O
product | Methyl 5-chloroindoline-2(R/S)-carboxylate | ClC=1C=C2CC(NC2=CC1)C(=O)OC | C10H10ClNO2
